US07153968B2
Step 1:1-(3-Bromo-phenyl)-3-hydroxy-3-methyl-butan-2-one
A mixture of 1,3-dibromobenzene (1.0 eq.), 3-hydroxy-3-methyl-butan-2-one (1.0 eq.), Pd2(dba)3 (0.02 eq.), xantphos (0.04 eq.) and t-BuONa (1.1 eq.) in THF (0.15M) was stirred at 60° C. for 2 h, poured in saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 7:3) afforded the title compound as an oil.

reactant | 1,3-dibromobenzene | 1.0 eq. | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 3-hydroxy-3-methyl-butan-2-one | 1.0 eq. | OC(C(C)=O)(C)C | C5H10O2
reactant | xantphos | 0.04 eq. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | t-BuONa | 1.1 eq. | C(C)(C)(C)O[Na]
solvent | THF | 0.15M | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | Pd2(dba)3 | 0.02 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(3-Bromo-phenyl)-3-hydroxy-3-methyl-butan-2-one | BrC=1C=C(C=CC1)CC(C(C)(C)O)=O | C11H13BrO2
